US04550105
To a mixture of 288 mg of cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester, 4 ml of propylene oxide and 3 ml of N,N-dimethylacetamide, which is stirred previously under ice-cooling, is added dropwise 400 mg of 1H-tetrazol-1-yl acetyl chloride, followed by stirring for 30 minutes. To the mixture is added 50 ml of ethyl ether, followed by stirring under cooling at -30° C., and then the upper layer is removed by decantation. The lower layer is subjected to the same procedure as above twice, followed by addition of 10 ml of acetone. The resultant solution is developed and purified by column-chromatography on silica-gel (40 g, 3×10 cm) using a mixture of acetone:methylene chloride (1:1) as eluent, followed by drying to give 403 mg (84%) of cis-3-(1H-tetrazol-1-ylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester.

reactant | cis-3-amino-2-oxoazetidine-4-carboxylic acid methyl ester | 288 mg | COC(=O)[C@@H]1[C@@H](C(N1)=O)N | C5H8N2O3
reactant | propylene oxide | 4 ml | C1C(C)O1 | C3H6O
reactant | N,N-dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
reactant | 1H-tetrazol-1-yl acetyl chloride | 400 mg | N1(N=NN=C1)CC(=O)Cl | C3H3ClN4O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | cis-3-(1H-tetrazol-1-ylacetamido)-2-oxoazetidine-4-carboxylic acid methyl ester | 403 mg, 84% | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(CN1N=NN=C1)=O | C8H10N6O4
